US05180723
A solution of oxalyl chloride (4.2 ml, 49 mmol) in dry DCM (200 ml) was cooled to -78° C. under argon. Dimethylsulphoxide (6.9 ml, 98 mmol) was added slowly and the mixture stirred for 5 min. 2-Methyloctan-4-ol (6.4 g, 44 mmol) was added and the mixture stirred for 20 min. Triethylamine (30.7 ml, 0.22 ml) was added and after 5 min. the mixture was allowed to warm up to room temperature. Water (100 ml) was added, the organic layer separated and the aqueous layer extracted with DCM. The combined organic extracts were dried over anhydrous magnesium sulphate, filtered and concentrated to give 2-methyloctan-4-one (5.0 g, 79%) as a waxy oil.

reactant | oxalyl chloride | 49 mmol, 4.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethylsulphoxide | 98 mmol, 6.9 ml | CS(=O)C | C2H6OS
reactant | 2-Methyloctan-4-ol | 44 mmol, 6.4 g | CC(C)CC(CCCC)O | C9H20O
reactant | Triethylamine | 30.7 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 100 ml | O | H2O
product | 2-methyloctan-4-one | 5.0 g, 79% | CC(C)CC(CCCC)=O | C9H18O
